US05654467
a) N-Benzyloxycarbonyl-O-ethyltyrosine methyl ester
32.94 g (100 mmol) of N-benzyloxycarbonyltyrosine methyl ester is mixed in 200 ml of DMF with 27.64 g (200 mmol) of ground potassium carbonate. 8.96 ml (110 mmol) of iodoethane is instilled in this suspension and stirred overnight at room temperature. The solution is concentrated by evaporation, distributed between ethyl acetate and water and, after drying (Na2SO4), the organic phase is mixed with hexane. The title compound crystallizes out.

reactant | N-benzyloxycarbonyltyrosine methyl ester | 100 mmol, 32.94 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C18H19NO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 110 mmol, 8.96 ml | ICC | C2H5I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-Benzyloxycarbonyl-O-ethyltyrosine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC)=O | C20H23NO5
